US07456168B2
6-Bromo-8-cyclopentyl-5-methyl-2-[5-(4-methyl-piperazin-1-yl)-pyridin-2-ylamino]-8H-pyrido[2,3-d]pyrimidin-7-one
6-Bromo-8-cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (1.0 g, 2.7 mmol) and 5-(4-methyl-piperazin-1-yl)-pyridin-2-ylamine (1.48 g, 7.7 mmol) were combined in toluene (3.0 ml) under nitrogen. The reaction mixture was heated to reflux and stirred for 4 h. The reaction mixture was cooled to RT and filtered. The solids were washed with additional toluene (25 ml total) and dried in vacuo to produce a yellow powder (338 mg, 0.78 mmol). mp 278-280° C. (dec.); MS (APCI +) 498, 500 (100); 1H NMR δ(400 MHz, CDCl3) 10.71-10.64 (m, 2H), 9.01 (s, 1H), 8.10-8.09 (m, 1H), 7.89 (d, J=0.10 Hz, 1H), 7.52-7.30 (m, 1H), 5.97-5.89 (m, 1H), 3.87-3.84 (m, 2H), 3.53-3.50 (m, 2H), 3.22-3.09 (m, 4H), 2.83-2.82 (m, 3H), 2.60 (s, 3H), 2.21-2.15 (m, 2H), 1.94 (br, 2H), 1.81-1.78 (m, 2H), 1.62-1.60 (M, 2H); Anal. Calc'd for C23H28BrN7O13.00H2O1.65HCl0.60C2H5OH: C, 43.70; H, 5.74; N, 14.74. Found; C, 43.76; H, 5.79; N, 14.39.

reactant | 6-Bromo-8-cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 2.7 mmol, 1.0 g | BrC1=C(C2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1)C | C14H16BrN3O2S
reactant | 5-(4-methyl-piperazin-1-yl)-pyridin-2-ylamine | 7.7 mmol, 1.48 g | CN1CCN(CC1)C=1C=CC(=NC1)N | C10H16N4
solvent | toluene | 3.0 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Bromo-8-cyclopentyl-5-methyl-2-[5-(4-methyl-piperazin-1-yl)-pyridin-2-ylamino]-8H-pyrido[2,3-d]pyrimidin-7-one | 0.78 mmol, 338 mg | BrC1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C)N(C1=O)C1CCCC1)C | C23H28BrN7O
